US06479497B1
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-trifluoromethoxybenzamide
A mixture of 4-trifluoromethoxybenzoic acid (254 mg, 1.23 mmol) in thionyl chloride (5 mL) was heated at 60° C. for 25 min. The excess of thionyl chloride was removed under reduced pressure, and the remains were evaporated with two portions of toluene. The acid chloride was then dissolved in anhydrous methylene chloride (5 mL) and added to a stirred solution of (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (277 mg, 1.12 mmol) and triethylamine (234 μL, 1.68 mmol) in methylene chloride (10 mL). The reaction mixture was stirred for 2 h at room temperature and was washed with a saturated solution of NaHCO3. The organic layer was dried (MgSO4), and the solvent was removed in vacuo. The product was purified by column chromatography on silica (eluent: chloroform/ethanol, 92:8+0.5% conc. NH3) affording 248 mg (51% yield) of the title compound as a white solid: mp 192-193° C.; [α]21D−75° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 435 (6, M30 ).

reactant | 4-trifluoromethoxybenzoic acid | 1.23 mmol, 254 mg | FC(OC1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O3
reactant | (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 1.12 mmol, 277 mg | N[C@@H]1COC2=C(C1)C(=CC=C2)N2CCN(CC2)C | C14H21N3O
reactant | triethylamine | 1.68 mmol, 234 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-4-trifluoromethoxybenzamide | 248 mg, 51% yield | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=CC=C(C=C2)OC(F)(F)F)=O | C22H24F3N3O3
